US07566724B2
A solution of (S,E)-2-(2,6-dichlorobenzamido)-5-[4-(isopropyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester (526.2 g) in THF (15 ml) was cooled to 0° C. To the solution, 0.1N aqueous lithium hydroxide solution (15.4 ml) was added, and the resulting mixture was stirred at 0° C. for 40 minutes. Water (20 ml) was added to the reaction solution and the resulting mixture was washed with ether. Aqueous layer was acidified by adding 1N hydrochloric acid in small portions thereto, and extracted twice with ethyl acetate. Organic layers were washed with saturated brine and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated to dryness to obtain (S,E)-2-(2,6-dichlorobenzamido)-5-[4-(isopropyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid (420.7 mg).

reactant | (S,E)-2-(2,6-dichlorobenzamido)-5-[4-(isopropyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester | 526.2 g | COC([C@H](C\C=C\C1=CC=C(C=C1)N(C1=NC=CC=N1)C(C)C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C26H26Cl2N4O3
reactant | lithium hydroxide | 0.1N, 15.4 ml | [OH-].[Li+]
reactant | Water | 20 ml | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (S,E)-2-(2,6-dichlorobenzamido)-5-[4-(isopropyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid | 420.7 mg | ClC1=C(C(=O)N[C@H](C(=O)O)C\C=C\C2=CC=C(C=C2)N(C2=NC=CC=N2)C(C)C)C(=CC=C1)Cl | C25H24Cl2N4O3
